US07230098B2
To a solution of ethenesulfonic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide (0.500 g, 1.6 mmol) in methanol (5 mL) was added diethylamine (0.707 g, 4.0 mmol) in methanol (5 mL), and the reaction was stirred at room temperature and monitored by TLC (1:1 Ethyl acetate:hexanes). After 2 hr the reaction was concentrated in vacuum and the residue partitioned between ethyl acetate (50 mL) and water (50 mL). The ethyl acetate was then washed with 50% brine (1×50 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. Crude product was purified using a 10 g prepacked silica gel column, eluting with 1:1 ethyl acetate: dichloromethane to provide 2-diethylamino-ethanesulfonic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide as a white solid (0.346 g, 0.90 mmol, 56%). 1H NMR (CDCl3, 300 MHz) δ 7.78 (d, J=6.65, 2H) 7.15 (d, J=6.66, 2H), 3.20 (m, 2H), 3.0 (m, 2H), 2.55 (q, J=7.15, 7.16 4H), 1.34 (s, 12H), 1.05 (t, J=7.19, 6H).

reactant | ethenesulfonic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | 1.6 mmol, 0.500 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)C=C)C | C14H20BNO4S
reactant | diethylamine | 4.0 mmol, 0.707 g | C(C)NCC | C4H11N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 2-diethylamino-ethanesulfonic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | 0.90 mmol, 0.346 g, 56% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)CCN(CC)CC)C | C18H31BN2O4S
